US07560551B2
At 0° C., (4-methoxybenzyl)magnesium chloride (0.25 M in THF)(37 ml, 9.3 mmol) was added to 2-methylisoindoline-1,3-dione (1.00 g, 6.2 mmol) in THF (3.0 mL)(Reference: Synthetic Comm. 2004, 34(7), 1301-1308). The mixture was stirred at 0° C. for 5 minutes, then quenched with 10 mL of water. The reaction was warmed to RT and concentrated to yield 2-(2-(4-methoxyphenyl)acetyl)-N-methylbenzamide as a white solid (crude). The material was carried on to next step without further purification. MS m/z=284 [M+1]+. Calc'd for C17H17NO3: 283.33.

reactant | (4-methoxybenzyl)magnesium chloride | 9.3 mmol, 0.25 M, 37 ml | COC1=CC=C(C[Mg]Cl)C=C1
reactant | 2-methylisoindoline-1,3-dione | 6.2 mmol, 1.00 g | CN1C(C2=CC=CC=C2C1=O)=O | C9H7NO2
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 2-(2-(4-methoxyphenyl)acetyl)-N-methylbenzamide | COC1=CC=C(C=C1)CC(=O)C1=C(C(=O)NC)C=CC=C1 | C17H17NO3
